US04014855
Preparation of 3,3-bis[pentabromophenoxymethyl]oxetane
A mixture of pentabromophenol (100 g., 0.2 moles), potassium carbonate (30 g., 0.22 moles), potassium iodide (0.5 g.), dimethyl formamide (180 ml.) and 3,3-bischloromethyl oxetane (15.5 g., 0.1 moles) was stirred in a nitrogen atmosphere and heated to 143° C. for 5 hours. The partially cooled reaction mixture was poured into 1 liter of water. The resulting solid 3,3-bis[pentabromophenoxymethyl]oxetane was collected by filtration and washed on the funnel with water and with ethanol. The yield was 93 g. A small sample was recrystallized from a large volume of dioxane. The recrystallized material melted at 281°-284° C.

reactant | pentabromophenol | 0.2 moles, 100 g | BrC1=C(C(=C(C(=C1O)Br)Br)Br)Br | C6HBr5O
reactant | potassium carbonate | 0.22 moles, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | 3,3-bischloromethyl oxetane | 0.1 moles, 15.5 g | ClCC1(COC1)CCl | C5H8Cl2O
solvent | water | 1 liter | O | H2O
solvent | dimethyl formamide | 180 ml | CN(C=O)C | C3H7NO
product | 3,3-bis[pentabromophenoxymethyl]oxetane | BrC1=C(C(=C(C(=C1OCC1(COC1)COC1=C(C(=C(C(=C1Br)Br)Br)Br)Br)Br)Br)Br)Br | C17H8Br10O3
